US05362879
A solution of methyl [3-[(ethoxycarbonyl) amino]phenoxy]acetate (4.10 g, 16 mmol) was dissolved in DMF (40 mL), NaH (0.94 g of a 50% dispersion in mineral oil, 19 mmol) added and the mixture stirred at room temperature for about 20 minutes. 2 -Bromomethyl-4,5-diphenyl-oxazole (5.10 g, 16 mmol) in DMF (15 mL) was added dropwise and the mixture stirred at room temperature for about 3 hours. The mixture was diluted with H2O, extracted with Et2O and the combined extracts washed with H2O. After drying over MgSO4, the solvent was evaporated and the residue chromatographed twice on a column of silica gel using hexane/EtOAc (4:1) for the first column and CH2Cl2 /MeOH (24:1) for the second to give methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](ethoxycarbonyl)amino]phenoxy]acetate (1.50 g, 19%). IR (film) 1765, 1710 cm-1 ; 1H NMR (CDCl3) δ1.22 (3H, t, J=8 Hz, OCH2CH3), 3.75 (3H, s, CO2CH3), 4.21 (2H, q, J=8 Hz, OCH2CH3), 4.47 (2H, s, OCH2CO2CH3), 5.00 (2H, s, CH2 -oxazole), 5.28 (0.2H, s, CH2Cl2), 6.79 (1H, dd, J=9 Hz, J'=2 Hz, aromatic H), 7.05 (2H, m, aromatic H), 7.20 to 7.40 (7H, m, aromatic H) , 7.50 to 7.70 (4H, m, aromatic H); MS m/z 487 (MH+).

reactant | methyl [3-[(ethoxycarbonyl) amino]phenoxy]acetate | 16 mmol, 4.10 g | C(C)OC(=O)NC=1C=C(OCC(=O)OC)C=CC1 | C12H15NO5
reactant | NaH | [H-].[Na+]
reactant | 2 -Bromomethyl-4,5-diphenyl-oxazole | 16 mmol, 5.10 g | BrCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12BrNO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](ethoxycarbonyl)amino]phenoxy]acetate | 1.50 g, 19% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN(C=1C=C(OCC(=O)OC)C=CC1)C(=O)OCC | C28H26N2O6
